US07030128B2
2-Bromo-6-(1H-[1,2,4]triazol-1-yl)pyridine (0.25 g, 1.13 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.13 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with ethyl acetate on a gradient of methanol (0-10%) and trituration with ethyl acetate gave 3-[6-(1H-[1,2,4]triazol-1-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine (117 mg) as a pale yellow solid: δH (400 MHz, CDCl3) 7.44 (1H, d, J 7), 7.84 (1H, d, J 8), 7.90 (1H, d, J 8), 8.07 (1H, dd, J 8 and 8), 8.19 (1H, s), 8.59 (1H, s), 9.12 (1H, s), 10.16 (1H, d, J 7); m/z (ES+) 331 (M++H).

reactant | 2-Bromo-6-(1H-[1,2,4]triazol-1-yl)pyridine | 1.13 mmol, 0.25 g | BrC1=NC(=CC=C1)N1N=CN=C1 | C7H5BrN4
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.13 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[6-(1H-[1,2,4]triazol-1-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 117 mg | N1(N=CN=C1)C1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C14H8F3N7
